US04411839
Sodium nitrite (1.1 mole) dissolved in water is slowly added to a cool (0°-5°) solution of 6-amino-1-(2,6-dimethylanilino)-2,4-pyrimidinedione (1 mole) in dilute fluoboric acid. The precipitate which forms is filtered off, washed with water, dried and pyrolyzed under nitrogen (only a small amount at a time) to give 6-fluoro-1-(2,6-dimethylanilino)-2,4-pyrimidinedione.

reactant | Sodium nitrite | 1.1 mole | N(=O)[O-].[Na+]
reactant | 6-amino-1-(2,6-dimethylanilino)-2,4-pyrimidinedione | 1 mole | NC1=CC(NC(N1NC1=C(C=CC=C1C)C)=O)=O | C12H14N4O2
reactant | fluoboric acid | [H+].[B-](F)(F)(F)F
solvent | water | O | H2O
product | 6-fluoro-1-(2,6-dimethylanilino)-2,4-pyrimidinedione | FC1=CC(NC(N1NC1=C(C=CC=C1C)C)=O)=O | C12H12FN3O2
